US07449467B2
2-Bromo-4-(trifluoromethyl)pyridine
A mixture of 2-chloro-4-(trifluoromethyl)pyridine (2.70 g, 14.9 mmol) and bromotrimethylsilane (3.90 mL, 29.6 mmol) in propanenitrile (15.0 mL) was heated under reflux for 22 h. The product (very volatile) was carefully rotary evaporated to give 4.07 g (propanenitrile contained) of thick light brown suspension w/o further purification. LC-MS calculated for C6H3BrF3N (M+H) 226.9; found 225.9/227.8.

reactant | 2-chloro-4-(trifluoromethyl)pyridine | 14.9 mmol, 2.70 g | ClC1=NC=CC(=C1)C(F)(F)F | C6H3ClF3N
reactant | bromotrimethylsilane | 29.6 mmol, 3.90 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | propanenitrile | 15.0 mL | C(CC)#N | C3H5N
product | 2-Bromo-4-(trifluoromethyl)pyridine | BrC1=NC=CC(=C1)C(F)(F)F | C6H3BrF3N
